US06054457
To a mixture of 4-[2-[(3-aminoprop-1-yl)oxy]benzoyl]amino-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (220 mg) and 37% aqueous formaldehyde (290 mg) in a mixture of methanol (10 ml) and acetic acid (0.2 ml) was added sodium cyanoborohydride (44.8 mg) and the mixture was stirred at ambient temperature for 4 hours. The reaction mixture was diluted with chloroform (20 ml) and the solution was washed successively with saturated aqueous sodium hydrogen carbonate solution (20 ml), water (10 ml) and brine (10 ml). The organic phase was dried over magnesium sulfate and the solvent was evaporated to give 4-[2-[(3-dimethylaminoprop-1-yl)oxy]benzoyl]amino-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (215 mg) as a colorless amorphous.

reactant | 4-[2-[(3-aminoprop-1-yl)oxy]benzoyl]amino-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 220 mg | NCCCOC1=C(C(=O)NC2=CC=C(C(=O)N(C3=C(C=CC=C3)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)C=CC=C1 | C35H45N5O5
reactant | formaldehyde | 290 mg | C=O | CH2O
reactant | sodium cyanoborohydride | 44.8 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[2-[(3-dimethylaminoprop-1-yl)oxy]benzoyl]amino-N-methyl-N-[2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 215 mg | CN(CCCOC1=C(C(=O)NC2=CC=C(C(=O)N(C3=C(C=CC=C3)OCCCCCC(=O)N3CCN(CC3)C)C)C=C2)C=CC=C1)C | C37H49N5O5
